US07718693B2
2,3-dichloro-1-fluoro-4-methylbenzene (0.090 g, 0.5 mmol) was added to a stirred mixture of potassium dichromate (0.284 g, 1 mmol) in acetic acid (1 ml). 97% Sulphuric acid (0.5 ml) was then added slowly to the mixture which was subsequently heated at 100° C. for 2 hrs. After cooling to room temperature, water and ice were added and the green solid thus obtained was filtered off and washed with cold water to afford 2,3-dichloro-4-fluorobenzoic acid (0.056 g, 0.27 mmol) as a white solid.

reactant | 2,3-dichloro-1-fluoro-4-methylbenzene | 0.5 mmol, 0.090 g | ClC1=C(C=CC(=C1Cl)C)F | C7H5Cl2F
reactant | potassium dichromate | 1 mmol, 0.284 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[K+].[K+]
reactant | Sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 2,3-dichloro-4-fluorobenzoic acid | 0.27 mmol, 0.056 g | ClC1=C(C(=O)O)C=CC(=C1Cl)F | C7H3Cl2FO2
